US08633173B2
N-Methyl-N-(2-{2-[3-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-benzyl)-methanesulfonamide was prepared from N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-benzyl]-N-methyl-methanesulfonamide (75.0 mg, 0.205 mmol) and 3-(4-methylpiperazin-1-yl)aniline (44.0 mg, 0.230 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.033 g, 31%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.98 (d, J=6.5 Hz, 1H), 7.45-7.39 (m, 2H), 7.35 (t, J=7.6 Hz, 1H), 7.23 (d, J=8.0 Hz, 1H), 7.18-7.11 (m, 3H), 6.96 (s, 1H), 6.81 (d, J=7.9 Hz, 1H), 6.77 (s, 1H), 6.70 (t, J=7.0 Hz, 1H), 6.58 (d, J=8.0 Hz, 1H), 4.36 (s, 2H), 3.28-3.23 (m, 4H), 2.91 (s, 3H), 2.78 (s, 3H), 2.61-2.56 (m, 4H), 2.36 (s, 3H). MS=521 (MH)+.

reactant | N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-benzyl]-N-methyl-methanesulfonamide | 0.205 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(CN(S(=O)(=O)C)C)C=CC=C2)=N1 | C15H16ClN5O2S
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.230 mmol, 44.0 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(2-{2-[3-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-benzyl)-methanesulfonamide | CN(S(=O)(=O)C)CC1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCN(CC2)C | C26H32N8O2S
